* SWB rotary line - contact-resistance sweep at three pull-up corners
V1 VCC 0 3.3
R1 VCC IN {Rpu}
Vsweep ctl 0 0
Rc IN 0 R={V(ctl)}
.step param Rpu list 70k 100k 140k
.dc Vsweep 1m 200k 100
.meas DC I_wet    FIND I(R1) AT=1m
.meas DC R_margin FIND V(ctl) WHEN V(IN)=0.99
.end
